US07037935B2
b) (RS)-1-(4-Benzyloxy-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester
7.46 g (24 mmol) (RS)-1-(4-benzyloxy-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid is dissolved in a mixture of 40 ml dichloromethane and 7.5 ml methanol. 0.13 ml concentrated sulfuric acid is added and the reaction mixture hold under reflux over night. The solvent is evaporated and the residue triturated with diethyl ether to yield 7.26 g (93%) of a colorless solid (used in the next step without further purification).

reactant | (RS)-1-(4-benzyloxy-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid | 24 mmol, 7.46 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1CC(CC1=O)C(=O)O | C18H17NO4
reactant | sulfuric acid | 0.13 ml | S(O)(O)(=O)=O | H2O4S
reactant | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | methanol | 7.5 ml | CO | CH4O
product | (RS)-1-(4-Benzyloxy-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | 7.26 g, 93% | COC(=O)C1CN(C(C1)=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C19H19NO4
